US08044076B2
To a solution of 4-benzyloxy-3-ethyl-5-methylbenzoic acid (4.38 g, 17.2 mmol) in chloroform (60 mL), thionylchloride (5 mL, 68.9 mmol) is added. The mixture is refluxed for 2.5 h before the solvent is evaporated in vacuo. The remaining red oil is dissolved in THF (150 mL) and then added dropwise to a solution of hydrazine hydrate (3.46 g, 69.3 mmol) in THF (80 mL). The mixture is stirred 2 h at rt, diluted with diethyl ether, washed with 1 N aq. HCl, dried over MgSO4, filtered, concentrated and dried to give 4-benzyloxy-3-ethyl-5-methyl-benzoic acid hydrazide (1.16 g) as a white solid; LC-MS: tR=0.82 min, [M+1]+=285.47, 1H NMR (CDCl3): δ 0.98 (t, J=7.3 Hz, 3H), 1.98 (s, 3H), 2.39 (q, J=7.3 Hz, 2H), 4.49 (s, 2H), 7.20-7.32 (m, 5H) 7.57 (s, 1H), 7.65 (s, 1H), 11.23 (s, 1H).

reactant | 4-benzyloxy-3-ethyl-5-methylbenzoic acid | 17.2 mmol, 4.38 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1C)CC | C17H18O3
reactant | thionylchloride | 68.9 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | hydrazine hydrate | 69.3 mmol, 3.46 g | O.NN
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-benzyloxy-3-ethyl-5-methyl-benzoic acid hydrazide | 1.16 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NN)C=C1C)CC | C17H20N2O2
